US06703425B2
Preparation of 3-[4-(Aminomethyl)-3-fluorophenyl]propylamine Dihydrochloride
Scheme IIIb, step C: 4-(3-Aminopropyl)-2-fluorobenzenecarbonitrile (1.1 g, 6.17 mmol) and boron dimethylsulfide 2M in THF (6.2 mL, 12.34 mmol) were combined and reduction was carried out in a manner analogous to the procedure described in example 6 to provide the intermediate title compound, 3-[4-(aminomethyl)-3-fluorophenyl]propylamine dihydrochlorde, (1.15 g, 73%) as a dihydrochloride salt. Electron spray M.S. 183 (M*+H).

reactant | 4-(3-Aminopropyl)-2-fluorobenzenecarbonitrile | 6.17 mmol, 1.1 g | NCCCC1=CC(=C(C=C1)C#N)F | C10H11FN2
reactant | boron dimethylsulfide | 2M | CSC.[B]
reactant | THF | 12.34 mmol, 6.2 mL | C1CCOC1 | C4H8O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 3-[4-(aminomethyl)-3-fluorophenyl]propylamine dihydrochlorde | 1.15 g, 73% | Cl.Cl.NCC1=C(C=C(C=C1)CCCN)F | InChI=1S/C10H15FN2.2ClH/c11-10-6-8(2-1-5-12)3-4-9(10)7-13;;/h3-4,6H,1-2,5,7,12-13H2;2*1H
